US07253192B2
A] {2-Methyl-4-[3-(2-trifluoromethyl-phenyl)-prop-2-ynylsulfanyl]-phenoxy}-acetic acid tert-butyl ester
In analogy to the procedure described in example 5B], (2-methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester (example 5A]) and 1-iodo-2-trifluoromethyl-benzene gave the title compound as a light yellow oil.

reactant | (2-methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#C)C)=O | C16H20O3S
reactant | 1-iodo-2-trifluoromethyl-benzene | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
product | {2-Methyl-4-[3-(2-trifluoromethyl-phenyl)-prop-2-ynylsulfanyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#CC1=C(C=CC=C1)C(F)(F)F)C)=O | C23H23F3O3S
